US07538112B2
Step 3: (5S)-1-Ethyl-5-methylpiperazin-2-one
A mixture of chloro-1,5-cyclooctadiene iridium (I) dimer (34 mg, 51 μmol) and (S)-1-[(R)-2-di-(3,5-bis(trifluoromethyl)phenyl)phosphino)ferrocenyl]ethyldicyclohexylphosphine (44 mg, 51 μmol; Solvias AG, SL-J006-2) in a mixture of 1:2 toluene and methanol (100 mL; purged with nitrogen for 15 minutes) was sonicated under an atmosphere of nitrogen for 15 minutes. To the resultant mixture, iodine (0.39 g, 1.52 mmol) and 1-ethyl-5-methylpyrazin-2(1H)-one (7.0 g, 50.66 mmol) was added. The resultant mixture was heated in an oil bath at 50° C. under an atmosphere of hydrogen gas at 800 psi for 48 hours. The product mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum. The residue was treated with chloroform saturated with ammonia gas (100 mL). The resultant suspension was filtered through a pad of Celite, which was the rinsed with chloroform saturated with ammonia gas. The combined filtrate was concentrated under vacuum. The residue was concentrated as a solution in toluene for subsequent reaction.

reactant | ethyldicyclohexylphosphine | 51 μmol, 44 mg | C(C)P(C1CCCCC1)C1CCCCC1 | C14H27P
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | iodine | 1.52 mmol, 0.39 g | II | I2
reactant | 1-ethyl-5-methylpyrazin-2(1H)-one | 50.66 mmol, 7.0 g | C(C)N1C(C=NC(=C1)C)=O | C7H10N2O
catalyst | chloro-1,5-cyclooctadiene iridium (I) | [Ir+].ClC1=CCCC=CCC1
solvent | methanol | 100 mL | CO | CH4O
product | (5S)-1-Ethyl-5-methylpiperazin-2-one | C(C)N1C(CN[C@H](C1)C)=O | C7H14N2O
